US07307172B2
Preparation of 7-hydroxy-6-octyl-5-phenyl-[1,2,4]-triazolo-[1,5-α]-pyrimidine
A mixture of 14.0 g (0.17 mol) of 3-amino-1,2,4-triazole, 51.7 g (0.17 mol) of 3-oxo-2-octyl-4-phenylbutanoate and 3. g of p-toluenesulfonic acid was heated under reflux for 6 h. Work-up was carried out analogously to Ex. 1. Drying gave 37 g (0.11 mol) of the title compound.

reactant | 3-amino-1,2,4-triazole | 0.17 mol, 14.0 g | NC1=NNC=N1 | C2H4N4
reactant | 3-oxo-2-octyl-4-phenylbutanoate | 0.17 mol, 51.7 g | O=C(C(C(=O)[O-])CCCCCCCC)CC1=CC=CC=C1
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 7-hydroxy-6-octyl-5-phenyl-[1,2,4]-triazolo-[1,5-α]-pyrimidine | 0.11 mol, 37 g | OC1=C(C(=NC=2N1N=CN2)C2=CC=CC=C2)CCCCCCCC | C19H24N4O
